### PR TITLE
Prove that EPOCH not depends on expired dreps

### PR DESCRIPTION
**Pull request by carlostome**
# Description

First step towards addressing #929.

~Blocked by **https://github.com/input-output-hk/agda-sets/pull/16**~

~There are a couple of postulates at the beginning of the file that should be taken as assumptions of the EpochStructure type (discuss in meeting)~

# Checklist

- [ ] Commit sequence broadly makes sense and commits have useful messages
- [ ] Any semantic changes to the specifications are documented in `CHANGELOG.md`
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [ ] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Conway/Specification/Enact/Properties/Computational.agda [hunk 1]
```diff
@@ -13,6 +13,21 @@ open EnactState
...
+                      → Γ ⊢ eSt ⇀⦇ ga ,ENACT⦈ eSt'
+                      → Γ ⊢ eSt ⇀⦇ ga ,ENACT⦈ eSt''
+                      → eSt' ≡ eSt''
+  ENACT-deterministic Enact-NoConf Enact-NoConf = refl
+  ENACT-deterministic (Enact-UpdComm _) (Enact-UpdComm _) = refl
+  ENACT-deterministic Enact-NewConst Enact-NewConst = refl
+  ENACT-deterministic Enact-HF Enact-HF = refl
+  ENACT-deterministic Enact-PParams Enact-PParams = refl
+  ENACT-deterministic (Enact-Wdrl _) (Enact-Wdrl _) = refl
+  ENACT-deterministic Enact-Info Enact-Info = refl
```
Comment (williamdemeo) [inline src/Ledger/Conway/Specification/Enact/Properties/Computational.agda]: You could give it a name which (imho) more precisely describes the what the theorem says; e.g., `ENACT-is-a-function` or (in Andre's terminology) `ENACT-is-left-unique`... but if you prefer to stick with `ENACT-deterministic`, that's fine; it's not wrong.

File: src-lib-exts/stdlib-meta/Reflection.agda
Comment (williamdemeo) [inline src-lib-exts/stdlib-meta/Reflection.agda]:
```suggestion
open import Data.Nat using (_≤ᵇ_)
open import Data.List using (map)
open import Class.Monad hiding (Monad-TC)
open import Class.MonadTC
hiding (extendContext)
open import Class.MonadError
using (MonadError; MonadError-TC)
open import Class.Show
open import Meta.Prelude
open import Meta.Init public
renaming (TC to TCI)
  hiding (Monad-TC; MonadError-TC)
open import Reflection using (TC; extendContext)

open MonadTC ⦃...⦄
```

Comment (williamdemeo) [reply src-lib-exts/stdlib-meta/Reflection.agda]: Apparently, the following lines can be omitted:
```agda
open import Data.Bool using (if_then_else_)
```
and
```agda
open MonadError ⦃...⦄ using (error; catch)
```

File: src-lib-exts/abstract-set-theory/Axiom/Set/Properties.agda [hunk 2]
```diff
@@ -0,0 +1,56 @@
...
+
+open import abstract-set-theory.Prelude hiding (isEquivalence; trans; map; map₂)
+open Theory th
+
+open import Axiom.Set.Properties th hiding (filter-⇒-⊆; filter-map )
+
+import Function.Related.Propositional as R
+open import Relation.Binary hiding (_⇔_)
+open import Relation.Binary.Lattice
+open import Relation.Binary.Morphism using (IsOrderHomomorphism)
```
Comment (williamdemeo) [inline src-lib-exts/abstract-set-theory/Axiom/Set/Properties.agda]:
```suggestion

```

File: src-lib-exts/abstract-set-theory/Axiom/Set/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,56 @@
...
+
+private variable
+  A B C : Type ℓ
+  X Y Z : Set A
+
+module _ {P Q : A → Type} {sp-P : specProperty P} {sp-Q : specProperty Q} where
+
+  import Relation.Unary as U
+
+  filter-⇒ : (P⇒Q : U.Universal (P U.⇒ Q)) → filter sp-P (filter sp-Q X) ≡ᵉ filter sp-P X
```
Comment (williamdemeo) [inline src-lib-exts/abstract-set-theory/Axiom/Set/Properties.agda]:
```suggestion
  open import Relation.Unary using (Universal; _⇒_)

  filter-⇒ : Π[ P ⇒ Q ] → filter sp-P (filter sp-Q X) ≡ᵉ filter sp-P X
```

(I prefer this style, but it's just a suggestion.)

File: src/Ledger/Conway/Specification/Epoch/Properties/ExpiredDReps.agda [hunk 4]
```diff
@@ -0,0 +1,569 @@
...
+open import Ledger.Conway.Specification.Ledger txs abs
+open import Ledger.Conway.Specification.Rewards txs abs
+open import Ledger.Conway.Specification.PoolReap txs abs
+open import Ledger.Conway.Specification.Utxo txs abs
+open import Ledger.Conway.Specification.Gov txs
+open import Ledger.Conway.Specification.Gov.Actions govStructure using (Vote)
+open import Relation.Binary.PropositionalEquality hiding (cong)
+
+open import Axiom.Set.Properties th hiding (filter-map)
+open import abstract-set-theory.Axiom.Set.Properties th
```
Comment (williamdemeo) [inline src/Ledger/Conway/Specification/Epoch/Properties/ExpiredDReps.agda]:
```suggestion
import Relation.Binary.Core as B
open import Relation.Binary.Definitions using (Symmetric)
open import Relation.Unary using (Universal; _⇒_)

open import Ledger.Prelude hiding (cong)
import Ledger.Prelude as P

open import Axiom.Set.Properties th hiding (filter-map)
open import abstract-set-theory.Axiom.Set.Properties th

open import Ledger.Core.Specification.Epoch using (EpochStructure)

open import Ledger.Conway.Specification.Certs govStructure
open import Ledger.Conway.Specification.Epoch txs abs
open import Ledger.Conway.Specification.Enact govStructure using (EnactState)
open import Ledger.Conway.Specification.Enact.Properties.Computational govStructure
open import Ledger.Conway.Specification.Gov txs
open import Ledger.Conway.Specification.Gov.Actions govStructure using (Vote)
open import Ledger.Conway.Specification.Ledger txs abs using (LState)
open import Ledger.Conway.Specification.PoolReap txs abs
open import Ledger.Conway.Specification.Ratify txs
open import Ledger.Conway.Specification.Rewards txs abs
open import Ledger.Conway.Specification.Utxo txs abs using (UTxOState)
```

(just a suggestion; more organized and slightly reduced)

File: src/Ledger/Conway/Specification/Epoch/Properties/ExpiredDReps.agda [hunk 5]
```diff
@@ -0,0 +1,569 @@
...
+
+-- | Epoch indexed relation.
+-- Two DReps (Map Credential Epoch) are related iff: Non-expired DReps are the same.
+DReps-[_]_≈_ : Epoch → B.Rel DReps 0ℓ
+DReps-[_]_≈_ e dreps₁ dreps₂
```
Comment (williamdemeo) [inline src/Ledger/Conway/Specification/Epoch/Properties/ExpiredDReps.agda]:
```suggestion
DReps-[ e ] dreps₁ ≈ dreps₂
```

File: src/Ledger/Conway/Specification/Epoch.lagda.md [hunk 6]
```diff
@@ -17,6 +17,7 @@ import      Data.Integer as ℤ
 open import Data.Integer.Properties using (module ≤-Reasoning; +-mono-≤; neg-mono-≤; +-identityˡ)
                                     renaming (nonNegative⁻¹ to nonNegative⁻¹ℤ)
 open import Data.Nat.GeneralisedArithmetic using (iterate)
+open import Data.Maybe using (fromMaybe)
```
Comment (williamdemeo) [inline src/Ledger/Conway/Specification/Epoch.lagda.md]: For my OCD, could you move this import above the `Data.Nat` import?  (`M` comes before `N`.)

File: src/Ledger/Conway/Specification/Epoch/Properties/ExpiredDReps.agda [hunk 7]
```diff
@@ -0,0 +1,569 @@
+{-# OPTIONS --safe #-}
```
Comment (williamdemeo) [inline src/Ledger/Conway/Specification/Epoch/Properties/ExpiredDReps.agda]: Don't you want to make this new file an `.lagda.md` file?

**Comment by carlostome** [comment]
Blocked by #964

**Review by williamdemeo — APPROVED** [review]
Awesome.  Nice work!!  ...before you merge, would you mind converting your new `ExpiredDReps.agda` file to `.lagda.md`?  Also, while it's fresh in your mind, please add some documentation that states the purpose of the module and explains the property you're proving. 🙏🏼

File: src/Ledger/Conway/Specification/Enact/Properties/Computational.lagda.md [hunk 8]
```diff
@@ -19,6 +19,21 @@ open EnactState
 
 open Computational ⦃...⦄
 
+module _ {Γ : EnactEnv} {eSt : EnactState} {ga : GovAction} where
+
+  -- TODO: Make this follow from computationalness or viceversa
```
Comment (WhatisRT) [inline src/Ledger/Conway/Specification/Enact/Properties/Computational.lagda.md]: I just happened to see this PR, we actually have a lemma for this already: `computational⇒rightUnique` in `Interface.ComputationalRelation`.
